US09126931B2
Methanesulfonic acid (2-fluoropyridin-4-yl)methyl ester
(2-Fluoropyridin-4-yl)methanol (1 g) was dissolved in DCM (40 ml), added with TEA (3.3 ml) and mesyl chloride (0.67 ml), and the mixture was stirred at 0° C. for 1 hr. The mixture was concentrated and then purified by silica gel column (n-hexane/ethyl acetate=4/1) to obtain the title compound (1.18 g, 77%).

reactant | (2-Fluoropyridin-4-yl)methanol | 1 g | FC1=NC=CC(=C1)CO | C6H6FNO
reactant | mesyl chloride | 0.67 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid (2-fluoropyridin-4-yl)methyl ester | 1.18 g, 77% | FC1=NC=CC(=C1)COS(=O)(=O)C | C7H8FNO3S
